US05858275
Solution prepared by dissolving 47.2 g of (2-(trans-4-(2-(4-n-propylphenyl)ethyl)cyclohexyl)ethyl)benzene in 500 ml of methylene chloride was cooled down to 0° C., and 34.7 g of aluminum chloride was added thereto and stirred. Oxalyl chloride in an amount of 33 g was added dropwise little by little thereto, it was raised up to room temperature, and stirred for 2 hours. After finishing of the reaction, it was added to 500 ml of water and extracted with 500 ml of methylene chloride. Organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under a reduced pressure to obtain 33.2 g of (2-(trans-4-(2-(4-n-propylphenyl)ethyl)cyclohexyl)ethyl)benzoyl chloride.

reactant | (2-(trans-4-(2-(4-n-propylphenyl)ethyl)cyclohexyl)ethyl)benzene | 47.2 g | C(CC)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCC1=CC=CC=C1 | C25H34
reactant | aluminum chloride | 34.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | (2-(trans-4-(2-(4-n-propylphenyl)ethyl)cyclohexyl)ethyl)benzoyl chloride | 33.2 g | C(CC)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCC1=C(C(=O)Cl)C=CC=C1 | C26H33ClO
